US04478842
A mixture of 196 mg of ethyl nicotinoylacetate and 192 mg of ethyl 6-aminocaproate is heated at 120°-130° under nitrogen for 18 hours. The product is purified by preparative TLC (silica gel; chloroform, ethyl acetate 9.1) to yield ethyl β-(3-pyridyl)-β-(5-ethoxycarbonylpentylamino)acrylate;Rf =0.3.

reactant | ethyl nicotinoylacetate | 196 mg | C(C1=CN=CC=C1)(=O)CC(=O)OCC | C10H11NO3
reactant | ethyl 6-aminocaproate | 192 mg | NCCCCCC(=O)OCC | C8H17NO2
product | ethyl β-(3-pyridyl)-β-(5-ethoxycarbonylpentylamino)acrylate | N1=CC(=CC=C1)C(=CC(=O)OCC)NCCCCCC(=O)OCC | C18H26N2O4
